US04391800
To a solution of benzyl 2-acetamido-4-O-(2-acetamido-3,4,6-tri-O-benzyl-2-deoxy-β-D-glucopyranosyl)-3-O-allyl-6-O-benzyl-2-deoxy-α-D-glucopyranoside (597 mg, 0.65 mmol) in 7:3:1 (v/v/v) ethanol-toluene-water (25 ml) stirred at reflux temperature under an atmosphere of nitrogen are added 1,4-diazabicyclo[2.2.2] octane (75 mg, 0.67 mmol) and tris(triphenylphosphine) rhodium (I) chloride (50 mg). Two further additions of 50 mg of the rhodium catalyst are made at 90 minute intervals, and stirring at reflux temperature under nitrogen is continued overnight. The cooled solution is then evaporated, the residue taken up in chloroform (80 ml), washed three times with water, dried (magnesium sulfate), and evaporated. The residue is then stirred in aqueous (1.5 ml) tetrahydrofuran (15 ml) in the presence of mercuric chloride (750 mg) for 30 minutes at room temperature. The reaction mixture is then evaporated, the residue taken up in chloroform (75 ml), washed twice with 2.5 M aqueous potassium iodide, dried (magnesium sulfate) and evaporated to a residue that is applied to a column of silica gel (40 g) that is eluted with 2:1 chloroform-ethyl acetate. Combination and evaporation of the appropriate fractions affords benzyl 2-acetamido-4-O-(2-acetamido-3,4,6-tri-O-benzyl-2-deoxy-β-D-glucopyranosyl)-6-O-benzyl-2-deoxy-α-D-glucopyranoside; yield 362 mg (63%); m.p. 220.5°-221.5° (methanol), [α]D25 +74° (c, 1.5, chloroform). The 300 MHz nmr spectrum in chloroform-d is in accord with the desired structure.

reactant | benzyl 2-acetamido-4-O-(2-acetamido-3,4,6-tri-O-benzyl-2-deoxy-β-D-glucopyranosyl)-3-O-allyl-6-O-benzyl-2-deoxy-α-D-glucopyranoside | 0.65 mmol, 597 mg | C(C)(=O)N[C@H]1[C@@H](OCC2=CC=CC=C2)O[C@@H]([C@H]([C@@H]1OCC=C)O[C@H]1[C@@H]([C@@H](OCC2=CC=CC=C2)[C@H](OCC2=CC=CC=C2)[C@H](O1)COCC1=CC=CC=C1)NC(C)=O)COCC1=CC=CC=C1 | C54H62N2O11
reactant | 1,4-diazabicyclo[2.2.2] octane | 0.67 mmol, 75 mg | N12CCN(CC1)CC2 | C6H12N2
catalyst | rhodium | 50 mg | [Rh] | Rh
catalyst | tris(triphenylphosphine) rhodium (I) chloride | 50 mg | [Rh]Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | benzyl 2-acetamido-4-O-(2-acetamido-3,4,6-tri-O-benzyl-2-deoxy-β-D-glucopyranosyl)-6-O-benzyl-2-deoxy-α-D-glucopyranoside | C(C)(=O)N[C@H]1[C@@H](OCC2=CC=CC=C2)O[C@@H]([C@H]([C@@H]1O)O[C@H]1[C@@H]([C@@H](OCC2=CC=CC=C2)[C@H](OCC2=CC=CC=C2)[C@H](O1)COCC1=CC=CC=C1)NC(C)=O)COCC1=CC=CC=C1 | C51H58N2O11
